US07652008B2
To a solution of (3R*,4S*)-3-hydroxy-2,2,9-trimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-pyrano[2,3-g]quinoline-7-carbonitrile described in Synthesis Example 14(110 mg, 0.283 mmol) in acetic acid (5 mL), 10% Pd/C (22 mg) was added at room temperature, and the resulting mixture was stirred for 2 hours under hydrogen atmosphere. Upon the completion of the reaction, the resulting solution was filtered through celite, the solvent was distilled off and then aqueous sodium carbonate solution was added to the residue, and the resulting solution was extracted with chloroform, dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain crude product of (3R*,4S*)-7-aminomethyl-2,2,9-trimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol (75.1 mg).

reactant | (3R*,4S*)-3-hydroxy-2,2,9-trimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-pyrano[2,3-g]quinoline-7-carbonitrile | O[C@@H]1[C@H](C=2C(=CC=3C(=CC(=NC3C2)C#N)C)OC1(C)C)NCCC1=CC=CC=C1 | C24H25N3O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 22 mg | [Pd] | Pd
product | (3R*,4S*)-7-aminomethyl-2,2,9-trimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | 75.1 mg | NCC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@@H]([C@H]3NCCC3=CC=CC=C3)O)(C)C | C24H29N3O2
